US05925339
N-Lauroyl-glutamin (N-dodecanoyl-glutamin)
9.22 g lauroylchloride dissolved in 46 ml dioxane were slowly added to 6.72 g glutamine and 13.94 g trimethylamine in 92 ml water and 92 ml dioxane, the temperature being 0° C. After stirring at room temperature for 1 hour, the dioxane was evaporated and the remaining solution was acidified to pH 1 with HCl. The crystals were filtered off and recrystallized from acetone and then from methanol: 9.9 g white needles.

reactant | lauroylchloride | 9.22 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | glutamine | 6.72 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | trimethylamine | 13.94 g | CN(C)C | C3H9N
solvent | dioxane | 46 ml | O1CCOCC1 | C4H8O2
solvent | water | 92 ml | O | H2O
solvent | dioxane | 92 ml | O1CCOCC1 | C4H8O2
product | N-Lauroyl-glutamin | C(CCCCCCCCCCC)(=O)N[C@@H](CCC(N)=O)C(=O)O | C17H32N2O4
